US08557872B2
Step 2: Synthesis of 3-(2-butoxy-4-fluoro-phenyl)-acrylic acid
3-(2-Butoxy-4-fluoro-phenyl)-acrylic acid methyl ester (121 mg) was reacted with 1N LiOH (5 ml) in THF and CH3OH for 2 hrs as described above to yield title compound (116 mg).

reactant | 3-(2-Butoxy-4-fluoro-phenyl)-acrylic acid methyl ester | 121 mg | COC(C=CC1=C(C=C(C=C1)F)OCCCC)=O | C14H17FO3
reactant | LiOH | 1N, 5 ml | [Li+].[OH-]
solvent | THF | C1CCOC1 | C4H8O
solvent | CH3OH | CO | CH4O
product | 3-(2-butoxy-4-fluoro-phenyl)-acrylic acid | 116 mg | C(CCC)OC1=C(C=CC(=C1)F)C=CC(=O)O | C13H15FO3
